US04217130
In this example, 11.5 g L-proline and 8.0 g magnesium oxide are dissolved in 100 ml water, and then admixed with 60 ml ether. A solution of p-methylphenyl chloroformate [8.5 g; boiling point: 109°-110° C. (28-30 mmHg)] dissolved in 50 ml ether is added thereto, while cooling the mixture in an ice bath (5°-10° C.). After stirring for 30 minutes, the reaction solution is acidified by adding 60 ml concentrated sulfuric acid, and extracted three times with 60 ml ethyl acetate. The extract is washed three times with 40 ml 2N HCl and four times with 50 ml water, and then dried overnight over anhydrous sodium sulfate (30 g). After drying, the extract is filtered, and the filtrate is concentrated under reduced pressure. The resulting oily materials are admixed with 100 ml n-hexane, and left standing in a refrigerator (about -15° C.). The deposited crystals are filtered, and recrystallized from ethyl acetate-n-hexane (1:1 by volume), whereby p-methylphenyloxycarbonyl-L-proline (compound number 8; 9.25 g; mp: 76°-77° C.) is obtained. Yield: 74.3%.

reactant | L-proline | 11.5 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | magnesium oxide | 8.0 g | [O-2].[Mg+2]
reactant | p-methylphenyl chloroformate | 8.5 g | ClC(=O)OC1=CC=C(C=C1)C | C8H7ClO2
reactant | sulfuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 60 ml | CCOCC | C4H10O
product | p-methylphenyloxycarbonyl-L-proline | 9.25 g, Yield: 74.3% | CC1=CC=C(C=C1)OC(=O)N1[C@H](C(=O)O)CCC1 | C13H15NO4
